US08236798B2
74.1 Ethyl 3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutanoate
74.2 Tert-butyl 4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-ylcarbamate EDC (8.3 g, 43.3 mmol), HOBT (6.6 g, 43.1 mmol) and Et3N (7 ml, 50.2 mmol) were added to a mixture of 3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutanoic acid (10.6 g, 35.9 mmol) and cyclopropylamine (3.3 ml, 47.6 mmol) in DCM (300 mL) at 5° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. After cooling to 5° C. more cyclopropylamine (2 ml, 28.5 mmol), EDC (5 g, 26.1 mmol), HOBT (4 g, 26.1 mmol) and Et3N (3.5 ml, 25.1 mmol) were added, the mixture was allowed to warm to room temperature and the stirring was continued overnight. DCM (300 mL) was added, followed by washing with 0.5 M aqueous HCl solution, brine and drying with MgSO4. The crude product was recrystallized from methyl-tert-butylether, the crystals obtained were washed with n-pentane and dried providing the title compound (10.2 g, 85%).

reactant | HOBT | 43.1 mmol, 6.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 50.2 mmol, 7 ml | CCN(CC)CC | C6H15N
reactant | 3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutanoic acid | 35.9 mmol, 10.6 g | C(C)(C)(C)OC(=O)NC(C(C(=O)O)O)CC1=CC=CC=C1 | C15H21NO5
reactant | cyclopropylamine | 47.6 mmol, 3.3 ml | C1(CC1)N | C3H7N
reactant | cyclopropylamine | 28.5 mmol, 2 ml | C1(CC1)N | C3H7N
reactant | EDC | 26.1 mmol, 5 g
reactant | HOBT | 26.1 mmol, 4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 25.1 mmol, 3.5 ml | CCN(CC)CC | C6H15N
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutanoate | 10.2 g, 85% | C(C)(C)(C)OC(=O)NC(C(C(=O)OCC)O)CC1=CC=CC=C1 | C17H25NO5
